US05859007
2-(2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro benzo[b][1.4]diazepin-1-yl)-N-isopropyl-N-phenylacetamide
To a stirring solution of 3.3 g (9.39 mmol) of 2-(2,4-Dioxo-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl acetamide, prepared as in Intermediate 47, in 25 mL of DMF is added 2.97 g (18.78 mmol, 2 equiv.) of 3-bromopyridine, 1.84 g (18.78 mmol, 2 equiv.) of potassium acetate, and 1.19 g (18.78 mmol, 2 equiv.) of copper powder. The suspension is heated to 125° C. for 8 h and then cooled to RT. It is diluted with 500 mL EtOAc and filtered through a bed of celite. The filtrate is washed with H2O (2×500 mL), conc. NH4OH (2×350 mL) and then dried (MgSO4), and the solvents removed in vacuo. Purification by silica gel flash column chromatography using hexane/EtOAc 1/1 as eluent afforded 2.61 g of the title compound as an oil: 1H NMR (CDCl3, 300 MHz) δ8.50 (m, 1H), 7.78 (d, 1H, J=9), 7.48-7.25 (m, 7H), 7.14 (t, 1H, J=8), 6.88 (d, 1H, J=10), 5.06-4.95 (m, 1H), 4.30-4.09 (m, 3H), 3.54 (q, 1H, J=13, 6), 1.7 (s, 1H), 1.42 (d, 2H, J=6), 1.10 (dd, 6H, J=9,2).

reactant | 2-(2,4-Dioxo-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl acetamide | 9.39 mmol, 3.3 g | O=C1CC(NC2=C(N1CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)=O | C20H21N3O3
reactant | 3-bromopyridine | 18.78 mmol, 2.97 g, 2 equiv. | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium acetate | 18.78 mmol, 1.84 g, 2 equiv. | C(C)(=O)[O-].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
catalyst | copper | 18.78 mmol, 1.19 g, 2 equiv. | [Cu] | Cu
product | 2-(2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro benzo[b][1.4]diazepin-1-yl)-N-isopropyl-N-phenylacetamide | 2.61 g | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C=2C=NC=CC2)=O | C25H24N4O3
